US05736539
4-Benzyl-1-tert-butoxycarbonyl-2(S)-(2-methylthioethyl)piperazine
The title compound was prepared according to the procedure described in Example 2, Step B, except using 1-benzyl-3(S)-(2-methylthioethyl)piperazine-2,5-dione (9.08 g, 32.6 mmol) and lithium aluminum hydride (4.40 g, 0.115 mmol), followed by di-tert-butyl dicarbonate (7.64 g, 35.0 mmol). The crude product was purified by column chromatography on silica gel, eluting with 5% ethyl acetate in hexane. The title compound was obtained as a clear oil (6.73 g). NMR (CHCl3, 300 MHz) δ 7.35-7.25 (5H, m); 4.18 (1H, br s); 3.90 (1H, br d); 3.55 (1H, d, J=13Hz); 3.40 (1H, d, J=13Hz); 3.07 (1H, t, J=12 Hz); 2.72 (2H, m); 2.40 (2H, m); 2.10 (3H, s); 1.48 (9H, s).

reactant | 1-benzyl-3(S)-(2-methylthioethyl)piperazine-2,5-dione | 32.6 mmol, 9.08 g | C(C1=CC=CC=C1)N1C([C@@H](NC(C1)=O)CCSC)=O | C14H18N2O2S
reactant | lithium aluminum hydride | 0.115 mmol, 4.40 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | di-tert-butyl dicarbonate | 35.0 mmol, 7.64 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
product | 4-Benzyl-1-tert-butoxycarbonyl-2(S)-(2-methylthioethyl)piperazine | C(C1=CC=CC=C1)N1C[C@@H](N(CC1)C(=O)OC(C)(C)C)CCSC | C19H30N2O2S
